US04806656
N-(2,4-Dimethylthien-3-yl)-N-(1-methoxyprop-2-yl)-chloroacetamide
0.02 Mol thionylchloride in 5 ml toluene are added dropwise, within 40 minutes, to 0.02 mol N-(1-methoxyprop-2-yl-)-2,4-dimethyltetrahydrothien-3-ylidenimine, dissolved in 10 ml of toluene at 20° . The reaction mixture is stirred for 2 hours whereby the hydrochloride of N-(-1-methoxyprop-2-yl)-2,4-dimethyl-3-aminothiophene is obtained. Then are added 0.02 mol of chloroacetylchloride dissolved in 5 ml toluene. This mixture is heated during 1 hour at reflux, whereby HCl escapes. The title compound is obtained by column chromatography on silica gel with cyclohexane/ethyl acetate (8:2), b.p. 148°-150°/0.03 Torr.

reactant | thionylchloride | 0.02 Mol | S(=O)(Cl)Cl | Cl2OS
reactant | hydrochloride | Cl | ClH
reactant | N-(-1-methoxyprop-2-yl)-2,4-dimethyl-3-aminothiophene | COCC(C)NC1=C(SC=C1C)C | C10H17NOS
reactant | chloroacetylchloride | 0.02 mol | ClCC(=O)Cl | C2H2Cl2O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | cyclohexane ethyl acetate | C1CCCCC1.C(C)(=O)OCC
product | N-(2,4-Dimethylthien-3-yl)-N-(1-methoxyprop-2-yl)-chloroacetamide | CC=1SC=C(C1N(C(CCl)=O)C(COC)C)C | C12H18ClNO2S
